Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right arm and leg weakness and numbness. 
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms ___ is an ___ ___ speaking female with PMHx 
of
HTN who presented as a transfer from ___ s/p tPA on ___
at 10:38. Woke up this AM  around 730 with no deficits. 8:00 AM
had sudden onset right arm and leg weakness and numbness. At ___ her ___ stroke scale was 2 for right arm drift and
decreased sensation to pinprick in right arm. Non con CTH showed
chronic microvascular disease and no acute intracranial process.
Received tPA and was transferred to ___ for further 
management.

Upon arrival, BP noted for SBP in 190s requiring nicardipine 
gtt.
BP at OSH recorded to be in 150s. Patient reports she feels back
to normal, but on ROS, she does endorse tingling in her RUE.
States that she feels her RUE strength is better. She has no
prior history of stroke and is baseline functionally independent
without cognitive deficits and ambulates without assistance. She
denies any cardiac, pulmonary, or infectious symptoms prior to
this event.

 
Past Medical History:
Hypertension
___ cataracts
Appendectomy
 
Social History:
___
Family History:
2 or her sisters had strokes. 1 at age ___, 1 in her ___
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T: afebrile BP: 190/50 HR: 80s  RR: 16 

General: Awake, cooperative, NAD.
HEENT: NC/AT, evidence of cataracts, no scleral icterus noted,
MMM, no lesions noted in oropharynx.
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate major points
of history, but cannot provide details. Attentive. Language is
fluent with intact comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  No dysarthria noted although ___ is not my native
language. Able to follow both midline and appendicular commands.
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Unable to
visualize optic disks
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. Slight right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
Patient unable to participate in full confrontational exam,
secondary to confusion from phone interpreter and no available 
in
person ___ interpreter
RUE: moves spontaneously, can hold extended in front of herself
10+ seconds with slight drift 
LUE: moves spontaneously, can hold extended in front of herself
10+ seconds
RLE: moves spontaneously, can hold extended  off bed 5+ seconds 
LUE: moves spontaneously, can hold extended  off bed 5+ seconds

-Sensory: No deficits to light touch or temperature throughout.
Pinprick feels "less: on RUE, but can't further quantify. No
extinction to DSS. 
-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     3      3     3     1
R   3     3      3     3     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor.  No dysmetria on FNF
bbilaterally.
-Gait: Deferred 

DISCHARGE EXAM:
===============
VS: Temp: 98.2 (Tm 98.6), BP: 153/75 (124-179/58-75), HR: 70
(66-75), RR: 18 (___), O2 sat: 94% (93-96), O2 delivery: ra  
Exam
General: Sleepy, though cooperative, well appearing
HEENT: NC/AT, evidence of cataracts, no scleral icterus noted,
MMM, no lesions noted in oropharynx.
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Attentive. Language is
fluent with intact comprehension. Normal prosody. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. Slight right pronator
drift. No adventitious movements, such as tremor or asterixis
noted. Subtle right deltoid and triceps weakness. 

-Sensory: Deferred this AM.

-Reflexes: Deferred this AM.

-Coordination: Deferred this AM.

-Gait: Narrow width, normal arm swing.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:30PM   GLUCOSE-86 CREAT-1.0 NA+-139 K+-7.2* CL--109* 
TCO2-22
___ 12:30PM   estGFR-Using this
___ 12:27PM URINE  HOURS-RANDOM
___ 12:27PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:27PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:27PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR*
___ 12:27PM URINE  RBC-0 WBC-2 BACTERIA-MOD* YEAST-NONE 
EPI-0
___ 12:27PM URINE  HYALINE-1*
___ 12:27PM URINE  MUCOUS-RARE*
___ 12:25PM   UREA N-28*
___ 12:25PM   ALT(SGPT)-18 AST(SGOT)-31 ALK PHOS-68 TOT 
BILI-0.2
___ 12:25PM   cTropnT-<0.01
___ 12:25PM   ALBUMIN-3.6
___ 12:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:25PM   WBC-6.4 RBC-2.93* HGB-9.2* HCT-27.8* MCV-95 
MCH-31.4 MCHC-33.1 RDW-13.8 RDWSD-47.9*
___ 12:25PM   NEUTS-49.5 ___ MONOS-7.7 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-3.15 AbsLymp-2.61 AbsMono-0.49 
AbsEos-0.07 AbsBaso-0.03
___ 12:25PM   PLT COUNT-229
___ 12:25PM   ___ PTT-26.2 ___

IMAGING:
========
CTA HEAD/NECK ___:

1. Posteriorly and inferomedially projecting aneurysm arising 
from the 
communicating right intracranial ICA, measuring 5 mm in 
diameter.  Note the right PCOM appears to arise from the 
aneurysm sac at its anterior aspect. 
2. Inferiorly oriented 3 mm outpouching of the right carotid 
terminus, which may also represent an aneurysm versus 
infundibulum. 
3. No large vessel occlusion.  No additional aneurysm. 
4. Atherosclerotic disease causes areas of mild and 
mild-to-moderate luminal narrowing in the bilateral posterior 
cerebral and bilateral cavernous intracranial carotid arteries, 
as above. 
5. CT perfusion without evidence of infarct core or ischemic 
penumbra. 
6. Mild-to-moderate cervical atherosclerotic disease causes 20% 
left cervical ICA luminal narrowing by NASCET criteria.  No 
right ICA luminal narrowing.  Widely patent bilateral cervical 
vertebral arteries. 
7. No acute intracranial hemorrhage. 
8. Hypodensity in the right frontal white matter is nonspecific 
and could 
reflect focal changes of white matter microangiopathy, however 
acute or 
subacute ischemia, vasogenic edema, and demyelination could also 
produce this appearance.  Consider MRI for further evaluation. 
9. Periapical lucency, left mandible, ___ tooth 22.  This could 
represent 
periapical cyst, granuloma, cannot exclude infection.  Correlate 
with dental examination. 

MRI HEAD WITHOUT CONTRAST ___:
 
1. Two areas of acute infarct in the left frontal lobe, one 
involving the left precentral gyrus. No evidence of hemorrhagic 
transformation. 
2. Atrophy and likely sequela of chronic small vessel ischemic 
disease. 
  
TTE ___:
CONCLUSION:
The left atrial volume index is mildly increased. There is 
normal left ventricular wall thickness with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative 3D volumetric left ventricular 
ejection fraction is 58 %. Left ventricular cardiac index is 
high (>4.0 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal. There is no evidence 
for an aortic arch coarctation. The aortic valve leaflets (?#) 
appear structurally normal. There is no aortic valve stenosis. 
There is mild [1+] aortic regurgitation. The
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is mild [1+] mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is borderline elevated. There is no pericardial 
effusion. 
IMPRESSION: Suboptimal image quality. Normal left ventricular 
wall thickness and biventricular cavity sizes and 
regional/global systolic function. Mild aortic regurgitation 
with grossly normal valve. Mild mitral regurgitation with normal 
valve morphology. No definite structural cardiac
source of embolism identified. 
  
DISCHARGE LABS:
===============
___ 06:20AM BLOOD WBC-6.5 RBC-3.49* Hgb-10.7* Hct-32.1* 
MCV-92 MCH-30.7 MCHC-33.3 RDW-13.4 RDWSD-44.8 Plt ___
___ 06:20AM BLOOD Glucose-102* UreaN-26* Creat-1.1 Na-144 
K-4.2 Cl-108 HCO3-22 AnGap-14
___ 06:20AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.0
___ 11:00AM BLOOD %HbA1c-5.7 eAG-117
___ 11:00AM BLOOD Triglyc-159* HDL-59 CHOL/HD-4.6 
LDLcalc-178* LDLmeas-209*
 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is an ___ woman from ___ with hypertension who was 
admitted as a transfer from ___ after presenting with 
acute onset right arm weakness and sensory changes. She received 
tPA on ___ at 10:38 at ___. Her NIHSS was 2 there. She 
was transferred to ___ for post tPA monitoring. 

MRI brain showed two areas of acute infarct in the left frontal 
lobe, one involving the left precentral gyrus. There was no 
evidence of hemorrhagic transformation. 

The distribution of her infarcts was felt to be consistent with 
embolic MCA stroke. Etiology likely cardioembolic vs. artery to 
artery in the setting of mild-to-moderate cervical 
atherosclerotic disease in ICA as seen on CTA of the head and 
neck. LDL was 209 and total cholesterol was 269. The patient was 
started on aspirin 81 mg daily and atorvastatin 80 mg daily 
while in house. TTE was unremarkable. 

She was monitored on telemetry in house but there was no 
evidence of atrial fibrillation. She was unable to be discharged 
with cardiac monitoring as she does not have health insurance 
and is not a ___. citizen. 

CTA also revealed an aneurysm in the right intracranial ICA, 
measuring 5 mm in diameter. Neurosurgery was consulted and 
recommended outpatient follow up with neurosurgery in ___ weeks. 


She was evaluated by both ___ and OT.

TRANSITIONAL ISSUES:
====================
# Patient will need long-term cardiac monitoring as an 
outpatient to monitor for occult atrial fibrillation. This can 
happen through her primary care doctor after returning to ___.

# Patient started on atorvastatin 80 mg daily and aspirin 81 mg 
daily while in house. The patient should continue both of these 
medications indefinitely after leaving the hospital.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 209) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
No prescription medications
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Once daily Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Hypertension
Unruptured cerebral aneurysm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

  ___ were hospitalized due to symptoms of right arm weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

  Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- Hypertension 
- Carotid atherosclerosis 

 We started the following medications:  

- Aspirin 81 mg daily
- Atorvastatin 80 mg daily  

Please take your other medications as prescribed.  
Please follow up with your primary care doctor and ___ neurologist 
when ___ return to ___. 

___ should also be seen by a neurosurgeon because of an aneurysm 
in your left carotid artery. ___ should call Dr. ___ office 
to set up an appointment in ___ weeks. His phone number is 
___.
 
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___